US08729102B2
B) 5-(cyclopropylmethoxy)-2-[(trimethylsilyl)ethynyl]pyridine
A mixture of 2-bromo-5-(cyclopropylmethoxy)pyridine (1.145 g), bis(triphenylphosphine)palladium(II) dichloride (175 mg), copper(I) iodide (48 mg), trimethylsilylacetylene (737 mg), triethylamine (759 mg) and DMF (15 mL) was stirred at room temperature overnight under an argon atmosphere. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and water, and the mixture was filtered through celite. The aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow oil (774 mg).

reactant | 2-bromo-5-(cyclopropylmethoxy)pyridine | 1.145 g | BrC1=NC=C(C=C1)OCC1CC1 | C9H10BrNO
reactant | trimethylsilylacetylene | 737 mg | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 759 mg | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 48 mg | [Cu]I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-(cyclopropylmethoxy)-2-[(trimethylsilyl)ethynyl]pyridine | 774 mg | C1(CC1)COC=1C=CC(=NC1)C#C[Si](C)(C)C | C14H19NOSi
